US09102688B2
2-(Quinolin-8-ylsulfamoyl)-benzoic acid methyl ester (Example Compound 39)
In the similar fashion using route 14 general procedure 27, 8-aminoquinoline (100 mg, 0.69 mmol), methyl 2-chlorosulfonylbenzoate (160 mg, 0.69 mmol) and DMAP (cat.) gave the title compound (80 mg, 35%) after purification by column chromatography with DCM as the eluent.

reactant | 8-aminoquinoline | 0.69 mmol, 100 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | methyl 2-chlorosulfonylbenzoate | 0.69 mmol, 160 mg | ClS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C8H7ClO4S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(Quinolin-8-ylsulfamoyl)-benzoic acid methyl ester | 80 mg, 35% | COC(C1=C(C=CC=C1)S(NC=1C=CC=C2C=CC=NC12)(=O)=O)=O | C17H14N2O4S
